US07399759B2
6-Cyano-2-methylthiopyrimidine
A mixture of 2-chloro-6-cyanopyrimidine (2.20 g, 15.8 mmol), sodium thiomethoxide (1.22 g, 17.3 mmol) and THF (100 ml) was refluxed for 2 hrs. The reaction mixture was combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the titled compound (1.57 g, 66%) as pale yellow crystals.

reactant | 2-chloro-6-cyanopyrimidine | 15.8 mmol, 2.20 g | ClC1=NC(=CC=N1)C#N | C5H2ClN3
reactant | sodium thiomethoxide | 17.3 mmol, 1.22 g | C[S-].[Na+]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-Cyano-2-methylthiopyrimidine | 1.57 g, 66% | C(#N)C1=CC=NC(=N1)SC | C6H5N3S
